US04007271
1,8,9-Tri(2-phenoxybenzoyloxy)anthracene
1,8,9-Trihydroxyanthracene (4 g.), benzene (125 ml.) and pyridine (12 g.) were stirred under nitrogen until a clear solution resulted. 2-Phenoxybenzoyl chloride (17 g.) was added and the mixture was stirred for 2 hours, filtered and evaporated under reduced pressure to a thick oil. This was dissolved in toluene and the solution was added dropwise with stirring to petroleum ether (b.p. 40°-60° C.) to yield a pale yellow-green solid (13 g., 90%), m.p. 110° C.

reactant | 1,8,9-Trihydroxyanthracene | 4 g | OC1=CC=CC2=CC3=CC=CC(=C3C(=C12)O)O | C14H10O3
reactant | benzene | 125 ml | C1=CC=CC=C1 | C6H6
reactant | 2-Phenoxybenzoyl chloride | 17 g | O(C1=CC=CC=C1)C1=C(C(=O)Cl)C=CC=C1 | C13H9ClO2
solvent | pyridine | 12 g | N1=CC=CC=C1 | C5H5N
product | 1,8,9-Tri(2-phenoxybenzoyloxy)anthracene | O(C1=CC=CC=C1)C1=C(C(=O)OC2=CC=CC3=CC4=CC=CC(=C4C(=C23)OC(C2=C(C=CC=C2)OC2=CC=CC=C2)=O)OC(C2=C(C=CC=C2)OC2=CC=CC=C2)=O)C=CC=C1 | C53H34O9
